US07538931B2
Haw=2-Phenyl-1-propyl-1H-benzimidazole
To a flask were added 3.0 g 2-phenylbenzimidazole and 60 ml tetrahydrofuran and the mixture was cooled to 10 C under nitrogen. 0.41 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes, then cooled to 10 C. 3.1 g 1-iodopropane were added and the mixture was heated to 55 C for 16 hours. Another 0.8 g 1-iodopropane were added and the temperature was held at 55 C for two hours. The mixture was cooled to 22 C, quenched slowly with 40 ml water, extracted with ethyl acetate and washed with water. Following solvent removal, the product was purified by silica gel chromatography using straight 67% ethyl acetate, 24% hexane and 9% methanol. An oil was obtained.

reactant | 2-phenylbenzimidazole | 3.0 g | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | Sodium hydride | 0.41 g | [H-].[Na+]
reactant | 1-iodopropane | 3.1 g | ICCC | C3H7I
reactant | 1-iodopropane | 0.8 g | ICCC | C3H7I
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-Phenyl-1-propyl-1H-benzimidazole | C1(=CC=CC=C1)C1=NC2=C(N1CCC)C=CC=C2 | C16H16N2
